data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C=[O:10].Cl[Ti:20](Cl)(Cl)Cl.C[Si](C)(C)CC=C>>CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC=C 10=20,
CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[N-:10]N=N[P+:20](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)OC)OCC8=CC=C(C=C8)OC)OC.O>>CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[N:10]5N=N[P:20]5(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)OC)OCC9=CC=C(C=C9)OC)OC.O 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC=CCO)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22][CH:23]=[C:24]1CC=CCO)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
[H:20][O:21]S(=O)(=O)O.C([CH:10]=[CH:11][OH:12])O>>[H:20][CH:10](CO)[CH:11]=[OH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC1CCC(C(C1)OC(=O)[CH:20]=[NH+:21]C(=O)C2=C(C=CC=C2)Cl)C(C)C.C[Si](C)(C)C[CH:11]=[CH2:10].Cl[Zn-](Cl)Br>>CC1CCC(C(C1)OC(=O)[CH:20]([CH2:10][CH+:11]C[Si](C)(C)C)[NH:21]C(=O)C2=C(C=CC=C2)Cl)C(C)C.Cl[Zn-](Cl)Br 10,11=10,20;20,21=21
CC1=CCCC1[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>CC1=CCCC1[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[Br-:10].Br[Br:20]>>Br[Br-:20][Br:10] 10=20,
CCCCCC1CCC(=[O:10])O1.CC(C)C[AlH:20]CC(C)C>>CCCCCC1CCC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)O1 10=20,
[H:20][O:21]S(=O)(=O)O.CCOC(C)(O)[O:10]C>>[H:20][O+:10](C)C(C)(O)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC(C1=CC=CC=C1)C(=O)[O-:10].C[Si](C)(C)OC(=O)C[P+](CCCCC1=CC=CC=C1)(O[Si:20](C)(C)C)O[Si](C)(C)C.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-]>>CC(C1=CC=CC=C1)C(=O)[O:10][Si-:20](C)(C)(C)O[P+](CCCCC2=CC=CC=C2)(CC(=O)O[Si](C)(C)C)O[Si](C)(C)C.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-] 10=20,
CCCCCCCCC=CCCCCCCCC(=O)OCC(C[O+:21]=[C:20](C)C)O.[OH2:10].C1CCOC1.C(=O)(C(F)(F)F)[O-]>>CCCCCCCCC=CCCCCCCCC(=O)OCC(C[O:21][C:20](C)(C)[OH2+:10])O.C1CCOC1.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CC#CCCC=C(C)CCCC(=C(C)C)[C:10](C)(C)[OH2+:11].C(=O)[O-]>>CC#CCCC=C(C)CCCC(=C(C)C)[C+:10](C)C.[OH2:11].C(=O)[O-] 10,11=11
[Li-]([O:12][C:11](=[CH2:10])OC)[O+:21]=[CH:20]CC(CCO[Si](C)(C)C(C)(C)C)OC(=O)C>>[Li-]1[O:21][CH:20]([CH2:10][C:11](=[O+:12]1)OC)CC(CCO[Si](C)(C)C(C)(C)C)OC(=O)C 10,11=10,20;20,21=21;12=11
CC1(CCCC1)[CH:20]2C[Br+:21]2.[Br-:10]>>CC1(CCCC1)[CH:20](C[Br:21])[Br:10] 10=20;20,21=21
CO[P+:22](C)(OC)[O:21][CH3:20].[I-:10]>>CO[P:22](=[O:21])(C)OC.[CH3:20][I:10] 10=20;20,21=21,22
[H:20][OH2+:21].CC1(CCCC2(C1CCCC2(O)[O:10]CCO)C)C(=O)OC.C1CCOC1.[Cl-]>>[H:20][O+:10](CCO)C1(CCCC2C1(CCCC2(C)C(=O)OC)C)O.[OH2:21].C1CCOC1.[Cl-] 10=20;20,21=21
C[NH+](C)C1=C(C=C[CH:10]=[CH:11]1)Br.O[S+:20](=O)=O>>C[NH+](C)C1=C(C=C[CH:10]([CH+:11]1)[S:20](=O)(=O)O)Br 10,11=10,20
CC[O+:21]=[CH:20]CNC(COCC1=CC=CC=C1)C2=C3C(=C([C:11](=[CH:10]2)[O:12]C)C)OCO3.CCO.O.[Cl-]>>CC[O:21][CH:20]1CNC(C2=C3C(=C([C:11](=[O+:12]C)[CH:10]12)C)OCO3)COCC4=CC=CC=C4.CCO.O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].C1=CC(=CC=C1C=[C:10]=[CH:11][OH:12])OCCCCC2=CNC=N2.CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][C:10](=CC1=CC=C(C=C1)OCCCCC2=CNC=N2)[CH:11]=[OH+:12].[OH2:21].CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3 10,11=10,20;20,21=21;12=11
CC[O-:10].CC=C[CH2:20][I:21]>>CC[O:10][CH2:20]C=CC.[I-:21] 10=20;20,21=21
C1=C[N-:12][CH:11]=[CH:10][C:20]1(O)[Cl:21]>>C1=C[N:12]=[CH:11][CH:10]=[C:20]1O.[Cl-:21] 10,11=10,20;20,21=21;12=11
[H:20][NH:21][C:22](=[S:23])NNC(=O)CC(=O)OCC.CC[O:10][Na]>>[H:20][O+:10](CC)[Na].CCOC(=O)CC(=O)NN[C:22](=[NH:21])[S-:23] 10=20;22,23=23;20,21=21,22
C[Si:20](C)(C)OS(=O)(=O)C.[I-:10]>>C[Si-:20](C)(C)(OS(=O)(=O)C)[I:10] 10=20,
CC1C(C(OC2C1OC(OC2)C3=CC=C(C=C3)OC)[OH:10])C.CO[P+:20](OC)(OC)Br.C1=CC=NC=C1.[Br-]>>CC1C(C(OC2C1OC(OC2)C3=CC=C(C=C3)OC)[OH+:10][P:20](OC)(OC)(OC)Br)C.C1=CC=NC=C1.[Br-] 10=20,
CC(C)CC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:10])[O:21]C(=O)C.CCN(CC)CC.CC(C)(C)O>>CC(C)CC[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.CC(=O)[O-:21].CCN(CC)CC.CC(C)(C)O 10=20;20,21=21
[H:20][O:21]C(=O)CC1=CC=C(C=C1)N(=O)=O.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)C(C#N)O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1CC(=O)[O-:21])N(=O)=O.C1=CC=C(C=C1)C(C#N)O 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].CO[C:24]1=[CH:23][CH:22]=[C:21](C=C1)N=NC2=CC=CC=C2 10=20;20,21=21,22;22,23=23,24
CC(C)CC(C(=O)NCCC(=O)O)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NCCC(=O)O)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1O)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[C:22](C=C1)O)[N+](=O)[O-] 10=20;20,21=21,22
[Li:20]N(C(C)C)C(C)C.CC1CC(C=CC1=[O:10])(C)C>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C1C=CC(CC1C)(C)C 10=20,
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)([O-:10])Cl>>[H:20][O:10]C(C)(N(CC)CC)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
